US07834039B2
A 500 mL high-pressure flask was charged with benzyl 4-(2-tert-butoxy-2-oxoethoxy)benzoate (2.06 g, 6.02 mmol) in methanol (100 ml). Palladium on carbon (0.320 g, 0.301 mmol) was added, the resulting suspension was allowed to shake under an atmosphere of hydrogen (47 Psi) at room temperature for 6 h. The mixture was filtered through Celite®), the colorless filtrate was concentrated to afford 4-(2-tert-butoxy-2-oxoethoxy)benzoic acid (1.5 g, 5.95 mmol, 99% yield) as pale yellow solid. LC/MS (Table 1, Method a) Rt=3.03 min.; MS m/z: 251.30 (M−H)−. 1H NMR (400 MHz, Solvent d-DMSO) ppm 7.88 (d, J=8.99 Hz, 2H), 6.98 (d, J=9.00 Hz, 2H), 4.75 (s, 2H), 1.43 (s, 9H).

reactant | benzyl 4-(2-tert-butoxy-2-oxoethoxy)benzoate | 6.02 mmol, 2.06 g | C(C)(C)(C)OC(COC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)=O | C20H22O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium on carbon | 0.301 mmol, 0.320 g | [Pd] | Pd
product | 4-(2-tert-butoxy-2-oxoethoxy)benzoic acid | 5.95 mmol, 1.5 g, 99% yield | C(C)(C)(C)OC(COC1=CC=C(C(=O)O)C=C1)=O | C13H16O5
